US06596734B1
N-{2-[3-benzyloxy-4-(toluene-4-sulfonylamino)-phenyl]-ethyl}-2-(3,5-dibromo-4-methoxy-phenyl)-acetamide.
To a solution of N-[2-(4-amino-3-benzyloxy-phenyl)-ethyl]-2-(3,5-dibromo-4-methoxy-phenyl)-acetamide (0.836 g, 0.00152 mol) and p-toluenesulfonyl chloride (0.440 g, 0.00231 mol) in 40 mL of methylene chloride qas added 4 mL of pyridine. The reaction mixture was stirred for 54 h at room temperature, washed with 1N HCl, 1N NaOH solutions, dried over Na2SO4 and evaporated. A residue was crystallized from ethyl acetate-hexanes mixture. Yield 0.933 g (87%).

reactant | N-[2-(4-amino-3-benzyloxy-phenyl)-ethyl]-2-(3,5-dibromo-4-methoxy-phenyl)-acetamide | 0.00152 mol, 0.836 g | NC1=C(C=C(C=C1)CCNC(CC1=CC(=C(C(=C1)Br)OC)Br)=O)OCC1=CC=CC=C1 | C24H24Br2N2O3
reactant | p-toluenesulfonyl chloride | 0.00231 mol, 0.440 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | pyridine | 4 mL | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
product | N-{2-[3-benzyloxy-4-(toluene-4-sulfonylamino)-phenyl]-ethyl}-2-(3,5-dibromo-4-methoxy-phenyl)-acetamide | C(C1=CC=CC=C1)OC=1C=C(C=CC1NS(=O)(=O)C1=CC=C(C=C1)C)CCNC(CC1=CC(=C(C(=C1)Br)OC)Br)=O | C31H30Br2N2O5S
